Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___: percutaneous gallbladder drain placement
___: ERCP for plastic-to-metal stent exchange

 
History of Present Illness:
Mrs ___ is a pleasant ___ with hx of anal ca s/p chemo
+XRT, newly diagnosed bile duct lesion (thought to be
cholangiocarcinoma) with metastasis to liver, gallbladder
presenting with acute onset RUQ abdominal pain.  Pt was 
initially
admitted to BI ___.  During that admission she was found to
have biliary obstruction, with concern for metastic
cholangiocarinoma.  She underwent ERCP and LFTs downtrended,
cytology ultimately returned with atypical cells, however given
scant cells, definitive diagnosis could not be made, prompting
return for EUS, bx results currently pending.  Pt states that 
she
was feeling relatively well after discharge, however this 
morning
abd pain became acutely worse and sharp. It remains in the RUQ
and non-radiating, exacerbated by movements. Has not tried 
eating
since acute exacerbation of pain. She denies fevers, chills,
chest pain, palpitations, diarrhea, dysuria, or hematuria.
Patient had one small BM this AM consisting of yellow stools.
Does not feel her abdomen is more distended than normal.  

In the ED, initial vitals were: 98.0 91 137/59 17 98% RA.  Exam
was notable for jaundice, RUQ TTP.  Labs were notable for
elevated alt/ast, tbil, ap, agma of 22, lactate 1.2.  RUQUS
showed stable intrahepatic biliary dilation, sludge in
gallbladder lumen.  CTAP showed right-sided intrahepatic biliary
ductal dilatation status post left hepatic and common bile duct
stent placement, extensive pericholecystic stranding, new since
the prior examination, concerning for acute cholecystitis.  Also
with unchanged left hydronephrosis and hydroureter, ikely the
result of UPJ obstruction, though underlying urothelial lesion 
is
not excluded.  Blood cxs were sent.  She was given
cefepime/flagyl and morphine.  ERCP was consulted and 
recommended
admission to east, IVF, NPO, abx, cxs.  Surgery was consulted 
and
recommended ___ consult, surgical oncology recommended no
surgical intevention.  

On the floor, pain is better controlled with morphine. She said
she was feeling great until 4 AM when the pain started.  No 
other
complaints.   No nausea, vomiting, diarrhea.  No dysuria.    

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats. Denies headache, sinus
tenderness, rhinorrhea or congestion. Denies cough, shortness of
breath. Denies chest pain or tightness, palpitations. Denies
nausea, vomiting, diarrhea, constipation. No recent change in
bowel or bladder habits. No dysuria. Denies arthralgias or
myalgias. 10 pt ros otherwise negative.
 
Past Medical History:
Anal cancer - tx'd w/ chemorads at ___, finished ___ ___
Gout
 
Social History:
___
Family History:
Father with colon cancer diagnosed in his ___.
Mother with osteoporosis.
 
Physical Exam:
ADMISSION EXAM:
===============

Vitals:  98.8 ___
Constitutional: Alert, oriented, no acute distress, sleepy
EYES: Sclera icteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, TTP in RUQ, non-distended, bowel sounds present, no
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions, icteric

DISCHARGE EXAM:
===============

VITALS:  98.6 PO 146 / 82 83 18 93 ra 
GENERAL: Alert, no distress
EYES: Anicteric, pupils equally round
ENT: slightly dry MM
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mild TTP in RUQ.  Bowel sounds
present and hyperactive.  Drain in RUQ with dressing in place -
no soiling of dressing
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
===============

___ 05:35PM BLOOD WBC-19.8* RBC-3.93 Hgb-11.7 Hct-35.0 
MCV-89 MCH-29.8 MCHC-33.4 RDW-14.2 RDWSD-46.0 Plt ___
___ 05:35PM BLOOD Neuts-91.1* Lymphs-2.5* Monos-4.9* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-18.03* AbsLymp-0.50* 
AbsMono-0.96* AbsEos-0.00* AbsBaso-0.02
___ 05:35PM BLOOD ___ PTT-28.9 ___
___ 05:35PM BLOOD Glucose-124* UreaN-11 Creat-1.0 Na-136 
K-3.9 Cl-94* HCO3-20* AnGap-22*
___ 05:35PM BLOOD ALT-93* AST-50* AlkPhos-203* TotBili-4.7* 
DirBili-3.4* IndBili-1.3
___ 05:35PM BLOOD Lipase-13
___ 05:35PM BLOOD cTropnT-<0.01 proBNP-410*
___ 05:35PM BLOOD Albumin-3.4*
___ 06:50AM BLOOD Calcium-8.4 Phos-4.2 Mg-1.8
___ 07:03PM BLOOD Lactate-1.2

PERTINENT LABS:
===============

___ 06:50AM BLOOD WBC-16.7* RBC-3.48* Hgb-10.2* Hct-31.3* 
MCV-90 MCH-29.3 MCHC-32.6 RDW-14.7 RDWSD-48.2* Plt ___
___ 06:40AM BLOOD WBC-12.9* RBC-3.30* Hgb-9.8* Hct-29.2* 
MCV-89 MCH-29.7 MCHC-33.6 RDW-14.4 RDWSD-46.7* Plt ___
___ 09:45AM BLOOD WBC-9.5 RBC-3.73* Hgb-10.9* Hct-33.2* 
MCV-89 MCH-29.2 MCHC-32.8 RDW-14.2 RDWSD-46.2 Plt ___
___ 06:55AM BLOOD ALT-55* AST-52* LD(___)-234 AlkPhos-168* 
TotBili-2.5*
___ 06:55AM BLOOD ALT-58* AST-52* LD(___)-231 AlkPhos-195* 
TotBili-2.7*
___ 06:55AM BLOOD Albumin-3.1* Calcium-8.5 Phos-3.3

PERTINENT MICRO:
================

___ 3:41 pm BILE      BILE. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 
      CLOSTRIDIUM PERFRINGENS.    SPARSE GROWTH. 

Blood culture ___: negative
Urine cultures ___: negative

PERTINENT IMAGING:
==================

RUQ US ___:
IMPRESSION:  
Again seen moderate intrahepatic and extrahepatic biliary 
dilatation, grossly similar in degree in comparison with prior 
CT and MRI from ___ given differences in imaging 
modality/technique. 
  
The gallbladder is not well assessed, but limited evaluation is 
suggestive of possible sludge within the gallbladder lumen.  The 
gallbladder was better assessed on prior CT and MRI. Query 
curvilinear echogenic region with shadowing along the periphery 
of the gallbladder vs adjacent bowel.  Not well assessed on this 
study. CT would further assess. 

CT AP ___:
IMPRESSION: 
-Distended gallbladder with soft tissue stranding, free 
pericholecystic fluid and focal disruption of the gallbladder 
wall suspicious for ruptured acute cholecystitis versus 
gangrenous cholecystitis. 
-No change in right-sided intrahepatic biliary ductal 
dilatation.  Improved left ductal dilatation post left internal 
biliary drain with expected intrahepatic pneumobilia. 
-Unchanged left hydronephrosis and hydroureter to the proximal 
left ureter, unchanged and characterized on prior MR urogram. 
-Additional stable findings as above. 

___: Gallbladder drain:
IMPRESSION:  
Successful US-guided placement of ___ pigtail catheter into 
the 
gallbladder. Samples was sent for microbiology evaluation. 

___ CT Chest:
IMPRESSION:  
Small bilateral pleural effusions right greater than left. 
Infiltrative appearance of the mediastinal fat could be 
physiological, however metastatic disease cannot be excluded. 
  
Eccentric wall thickening involving the distal esophagus at the 
level of the GE junction. 
  
Partially visualized liver.  No change in the right-sided 
intrahepatic biliary ductal dilatation.  Pneumobilia.  A biliary 
drain is in place.  The known porta hepatis mass has not been 
imaged. 

___: ERCP
Long tight stricture at the level of the higher CHD up to the 
hilum, compatible with a Bismuth type 2 cholangiocarcinoma - 
successful ERCP with uncovered metal stent placement

DISCHARGE LABS:
===============

___ 06:55AM BLOOD Glucose-113* UreaN-6 Creat-0.8 Na-133* 
K-3.7 Cl-94* HCO3-29 AnGap-10
___ 06:55AM BLOOD ALT-58* AST-52* LD(LDH)-231 AlkPhos-195* 
TotBili-2.7*
___ 06:55AM BLOOD Albumin-3.1* Calcium-8.5 Phos-3.___ w/ PMH of anal cancer (treated with chemo/XRT at ___, 
completed Tx in ___, recent admission for biliary obstruction 
and new diagnosis of likely metastatic cancer to liver (of 
unknown primary), and other issues admitted with transaminitis, 
abdominal pain and leukocytosis with imaging consistent with 
perforated vs. gangrenous cholecystitis. Biopsy results of liver 
mass obtained on prior admission returned positive with 
metastatic squamous cell carcinoma, most likely from her known 
anal SCC primary. In discussion at tumor board (oncology, 
surgical oncology, and radiology), she was determined not to be 
a surgical candidate given extent of disease. A percutaneous 
gallbladder drain was placed, and she was treated with 
ciprofloxacin and metronidazole. Her symptoms gradually 
improved. Her bile grew out sparse growth of clostridium 
perfringens. Her plastic biliary stent was exchanged for a metal 
one in antici

TRANSITIONAL ISSUES:
====================
- Patient started on amlodipine 5 mg PO QD this admission for 
persistent mild hypertension to the 160-170s systolic.
- Patient discharged home to complete an additional 5 days of 
antibiotics for cholecystitis after ERCP metal stent placement 
(for a total of 15 days of antibiotics from the time of drain 
placement), ending on ___.
- Immediate-release morphine worked well for pain control for 
the patient. If she is requiring very frequent dosing, starting 
MS contin for long-acting pain control to reduce PRN requirement 
may be warranted.
- The patient will follow up with surgical oncology at ___ in 
___ weeks for a percutaneous cholangiogram through the drain - 
if this shows cystic duct patency, the drain may be removed at 
that time. 
- If the patient develops any worsening abdominal pain or 
worsening in liver function tests, she should return to ___ 
for evaluation.
- On her previous admission, patient noted to have some ureteral 
thickening concerning for additional metastatic spread. She 
needs outpatient urology referral for ureteroscopy to further 
evaluate this. 

___ is clinically stable for discharge 
today.  On the day of discharge, greater than 30 minutes were 
spent in the planning, coordination, and communication of the 
discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Ciprofloxacin HCl 500 mg PO Q12H 
last day: ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every 12 hours 
Disp #*9 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
last day: ___ 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*15 Tablet Refills:*0 
4.  Morphine Sulfate ___ ___ mg PO Q4H:PRN Pain - Moderate 
RX *morphine 15 mg 1 tablet(s) by mouth every 4 hours Disp #*90 
Tablet Refills:*3 
5.  Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron [Zofran ODT] 8 mg 1 tablet(s) by mouth every 8 
hours Disp #*30 Tablet Refills:*3 
6.  Psyllium Wafer 1 WAF PO DAILY 
RX *psyllium  1 wafer by mouth daily Disp #*30 Each Refills:*3 
7.  Simethicone 40-80 mg PO QID:PRN gas 
RX *simethicone 80 mg 1 tablet by mouth four times a day Disp 
#*120 Tablet Refills:*3 
8.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: Squamous cell carcinoma of the anal canal, metastatic 
to the liver, Emphysematous cholecystitis due to clostridium 
perfringens, biliary obstruction, hypertension
SECONDARY: gastroesophageal reflux disease, gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the abdominal pain, which 
we found was due to an infection in your gallbladder (a 
condition called cholecystitis).  While you were here, the 
results of a diagnostic test you had on your last admission 
revealed that the source of the cancer in your liver was a 
mesastasis (or spread) from the anal cancer you had previously.  
Several teams of physicians evaluated you, including 
oncologists, gastroenterologists, interventional radiologists, 
and surgeons.  The risk of surgery was felt to be too high at 
this time, so a temporary tube was placed in your gallbladder to 
drain the infected fluid.  You were also treated with 
antibiotics, and gradually your symptoms improved.  

In order to receive chemotherapy for the cancer in your liver, 
we needed to exchange the plastic stent you had placed in your 
bile ducts on your last admission for a more durable metal one.  
You tolerated this procedure well.  When your symptoms were 
improved and you were eating and drinking, you were discharged 
home.

You will continue to take antibiotics for another four days.  
You will follow-up with one of the surgeons in ___ weeks to have 
your gallbladder drain removed.  Finally, you should follow-up 
with your oncologist as soon as possible (we have scheduled an 
appointment for you for next week) to determine what the next 
steps in treatment should be.
 
Followup Instructions:
___